US07977344B2
8-(Methoxy)-2-{[2-(methyloxy)ethyl]oxy}-9-(tetrahydro-3-furanylmethyl)-9H-purin-6-amine
8-(Methoxy)-2-{[2-(methoxy)ethyl]oxy}-9H-purin-6-amine trifluoroacetate salt (0.30 g) was dissolved in dry DMF (5 mL). To this was added anhydrous potassium carbonate (0.47 g) and then heated to 60° C. for 1.5 hours. The reaction mixture was cooled to room temperature and tetrahydro-3-furanylmethyl methanesulfonate (0.168 g) was added. The reaction mixture was then heated to 90° C. for 3.5 hours. The reaction mixture was then quenched into water (100 mL) and extracted into ethyl acetate (50 mL, 3 times). The organic was separated and dried by passing through a hydrophobic frit and then evaporated under reduced pressure to give a glassy solid. This was purified by C18 reverse phase chromatography using water (containing 0.1% formic acid)-acetonitrile (containing 0.05% formic acid) as eluent (10-45%). This gave the title compound as a white solid (0.1233 g).

reactant | 8-(Methoxy)-2-{[2-(methoxy)ethyl]oxy}-9H-purin-6-amine trifluoroacetate salt | 0.30 g | FC(C(=O)O)(F)F.COC=1NC2=NC(=NC(=C2N1)N)OCCOC
reactant | potassium carbonate | 0.47 g | C([O-])([O-])=O.[K+].[K+]
reactant | tetrahydro-3-furanylmethyl methanesulfonate | 0.168 g | CS(=O)(=O)OCC1COCC1 | C6H12O4S
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 8-(Methoxy)-2-{[2-(methyloxy)ethyl]oxy}-9-(tetrahydro-3-furanylmethyl)-9H-purin-6-amine | 0.1233 g | COC=1N(C2=NC(=NC(=C2N1)N)OCCOC)CC1COCC1 | C14H21N5O4
